US07053088B2
(1H-Benzoimidazol-4-yl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine.
Analogous to the procedure used to prepare Example 5(b), 4-chloro-6-(4-trifluoromethylphenyl)pyrimidine, Example 5(a), (690 mg, 2.67 mmol) and 4-aminobenzimidazole (296 mg, 2.22 mmol, Astatech) afforded after purification by silica gel chromatography with gradient from 1% to 10% solution of (2 M NH3 in MeOH) in CH2Cl2, the title compound as a yellow solid. MS (ESI, pos. ion.) m/z: 356 (M+1).

reactant | 4-chloro-6-(4-trifluoromethylphenyl)pyrimidine | ClC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | 4-aminobenzimidazole | 2.22 mmol, 296 mg | NC1=CC=CC=2N=CNC21 | C7H7N3
product | (1H-Benzoimidazol-4-yl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine | N1C=NC2=C1C=CC=C2NC2=NC=NC(=C2)C2=CC=C(C=C2)C(F)(F)F | C18H12F3N5
